US04257987
Phosphoric acid propargyl dimethyl ester
1 mole of phosphoric acid dimethyl ester-chloride was reacted with 1 mole of propargyl alcohol analogously to Example 9.

reactant | phosphoric acid dimethyl ester-chloride | 1 mole | [Cl-].COP(OC)(O)=O
reactant | propargyl alcohol | 1 mole | C(C#C)O | C3H4O
product | Phosphoric acid propargyl dimethyl ester | COP(OCC#C)(OC)=O | C5H9O4P
